US09302989B2
tert-butyl 5-(isoindoline-2-carboxamido)isoindoline-2-carboxylate
In a 250 mL round bottom flask was mixed at room temperature triphosgene (234 mg, 0.790 mmol) in anhydrous dichloromethane (25 mL). To this solution was added dropwise over 15 minutes, a slurry of tert-butyl 5-aminoisoindoline-2-carboxylate (500 mg, 2.134 mmol) and diisopropylethylamine (0.410 ml, 2.347 mmol) in anhydrous dichloromethane (20 mL). The mixture was stirred overnight at room temperature. A solution of isoindoline (0.242 ml, 2.134 mmol) and diisopropylethylamine (0.410 ml, 2.347 mmol) in anhydrous dichloromethane (20 mL) was added in one portion. The reaction stirred overnight at room temperature. The solvent was removed and the residue was purified by normal phase flash chromatography to provide the title compound.

reactant | triphosgene | 0.790 mmol, 234 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | tert-butyl 5-aminoisoindoline-2-carboxylate | 2.134 mmol, 500 mg | NC=1C=C2CN(CC2=CC1)C(=O)OC(C)(C)C | C13H18N2O2
reactant | diisopropylethylamine | 2.347 mmol, 0.410 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isoindoline | 2.134 mmol, 0.242 ml | C1NCC2=CC=CC=C12 | C8H9N
reactant | diisopropylethylamine | 2.347 mmol, 0.410 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 5-(isoindoline-2-carboxamido)isoindoline-2-carboxylate | C1N(CC2=CC=CC=C12)C(=O)NC=1C=C2CN(CC2=CC1)C(=O)OC(C)(C)C | C22H25N3O3
